US07030128B2
To 7-([1,2,4]triazol-1-ylmethyl)imidazo[1,2-α]pyrimidine (3.38 g, 16.9 mmol) in methanol (300 ml) saturated with potassium bromide was added sodium acetate (4.16 g, 50.7 mmol). This mixture was cooled (−10° C.) and bromine (2.70 g, 16.9 mmol) added dropwise over a five minute period. Stirring at this temperature was continued for 15 min before quenching the reaction with 5% (w/v) sodium sulphite solution (20 ml). Mixture was stirred for 15 min and methanol removed under reduced pressure. Residue was partitioned between dichloromethane (100 ml) and saturated sodium hydrogencarbonate solution (100 ml). Product was extracted into dichloromethane (4×100 ml) then the combined organic extracts were washed with brine (300 ml) and dried over anhydrous magnesium sulphate. Drying agent was removed by filtration and filtrate dried under reduced pressure to give 3-bromo-7-([1,2,4]triazol-1-ylmethyl)imidazo[1,2-α]pyrimidine (4.60 g, 97%) as a pale yellow solid: δH (360 MHz, d6-DMSO) 5.69 (2H, s), 7.06 (1H, d, J 7), 7.88 (1H, s), 8.05 (1H, s), 8.74 (1H, s), 8.80 (1H, d, J 7); m/z (ES+) 279, 281 (M++H).

reactant | 7-([1,2,4]triazol-1-ylmethyl)imidazo[1,2-α]pyrimidine | 16.9 mmol, 3.38 g | N1(N=CN=C1)CC1=NC=2N(C=C1)C=CN2 | C9H8N6
reactant | potassium bromide | [Br-].[K+]
reactant | sodium acetate | 50.7 mmol, 4.16 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 16.9 mmol, 2.70 g | BrBr | Br2
solvent | methanol | 300 ml | CO | CH4O
product | 3-bromo-7-([1,2,4]triazol-1-ylmethyl)imidazo[1,2-α]pyrimidine | 4.60 g, 97% | BrC1=CN=C2N1C=CC(=N2)CN2N=CN=C2 | C9H7BrN6
